US05663448
2-Bromo-4-tert-butyl aniline hydrochloride
A solution of 24.33 g (90 mmol) of N-acetyl-2-bromo-4-tert-butyl aniline in 73.5 ml of 95% ethanol and 46 ml of concentrated hydrochloric acid is heated under reflux one hour. Then the mixture is cooled and the product is filtered, washed with cold 95% ethanol and dried. The yield of title compound is 21.75 g (91%).

reactant | N-acetyl-2-bromo-4-tert-butyl aniline | 90 mmol, 24.33 g | C(C)(=O)NC1=C(C=C(C=C1)C(C)(C)C)Br | C12H16BrNO
reactant | hydrochloric acid | 46 ml | Cl | ClH
solvent | ethanol | 73.5 ml | C(C)O | C2H6O
product | 2-Bromo-4-tert-butyl aniline hydrochloride | Cl.BrC1=C(N)C=CC(=C1)C(C)(C)C | InChI=1S/C10H14BrN.ClH/c1-10(2,3)7-4-5-9(12)8(11)6-7;/h4-6H,12H2,1-3H3;1H
